US07662831B2
Following the procedure of Example 1, step 2, 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazole (1.7 g, 8.0 mmol) and potassium nitrate (0.80 g, 8.0 mmol) in concentrated sulfuric acid (20 mL) provided 2-nitro-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazole. MS (ES) m/z 257.1.

reactant | 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazole | 8.0 mmol, 1.7 g | C1=C2C=3CCCCC3N3C2=C(C=C1)CCC3 | C15H17N
reactant | potassium nitrate | 8.0 mmol, 0.80 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazole | [N+](=O)([O-])C=1C=C2C=3CCCCC3N3C2=C(C1)CCC3 | C15H16N2O2
